US04140792
12.7 g (0.05 mol) of 3-chloro-4-monochlorodifluoromethoxy-phenyl isocyanate in 20 ml of toluene were added, at 60° C., to a solution of 9 g (0.05 mol) of 3-(4-chlorophenyl)-2-pyrazoline in 60 ml of toluene. The batch was stirred for 2 hours at 80° C. On cooling to room temperature, the product precipitated and was filtered off. 8.5 g (39% of theory) of 1-[(3-chloro-4-monochlorodifluoromethoxy-phenyl)-carbamoyl]-3-(4-chlorophenyl)-2-pyrazoline with a melting point of 161° C. were obtained.

reactant | 3-chloro-4-monochlorodifluoromethoxy-phenyl isocyanate | 0.05 mol, 12.7 g | ClC=1C(=C(C=CC1Cl)N=C=O)OC(F)F | C8H3Cl2F2NO2
reactant | 3-(4-chlorophenyl)-2-pyrazoline | 0.05 mol, 9 g | ClC1=CC=C(C=C1)C1=NNCC1 | C9H9ClN2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(3-chloro-4-monochlorodifluoromethoxy-phenyl)-carbamoyl]-3-(4-chlorophenyl)-2-pyrazoline | 8.5 g, 39% | ClC=1C(=C(C=CC1Cl)NC(=O)N1N=C(CC1)C1=CC=C(C=C1)Cl)OC(F)F | C17H12Cl3F2N3O2
